US03957783
To a solution of 12.4 g of 4-(o-fluorophenyl)-6-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one in 248 ml of dimethylformamide is added 2.58 g of 67% sodium hydride. After stirring at 50°C for 1 hour and cooling to room temperature, 20.45 g of methyl iodide in 61.4 ml of dimethylformamide is added dropwise thereto. The mixture is stirred at room temperature for 1 hour, then poured into water and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure. The residue is chromatographed on silica gel using chloroform as an eluent to give 1-methyl-4-(o-fluorophenyl)-6-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 119° - 121°C (after recrystallization from chloroform-ethanol), and 3-methyl-4-(o-fluorophenyl)-6-methyl-3H-thieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 239° - 241°C.

reactant | 4-(o-fluorophenyl)-6-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 12.4 g | FC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC(=C2)C | C13H9FN2OS
reactant | sodium hydride | 2.58 g | [H-].[Na+]
reactant | methyl iodide | 20.45 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 248 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 61.4 ml | CN(C=O)C | C3H7NO
product | 1-methyl-4-(o-fluorophenyl)-6-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC(=C2)C)C2=C(C=CC=C2)F)=O | C14H11FN2OS
